US07491732B2
4-(Prop-2-ynyloxy)nitrobenzene (0.910 g, 5.13 mmol), iron (1.42 g, 25.3 mmol), and NH4Cl (0.719 g, 12.8 mmol) were vigorously stirred in EtOH/water (1:1, 55 mL) at 70° C. for 15 minutes. The reaction mixture was filtered hot through Celite and concentrated in vacuo. The residue was suspended in 10% 2N ammoniacal methanol in dichloromethane, sonicated, and filtered through Celite. Concentration gave 4-(prop-2-ynyloxy)aniline as a brown oil which was used without further purification. In general, isolated prop-2-ynyloxyanilines were unstable and were therefore used immediately after the second filtration. 1H NMR (CDCl3): δ 6.82 (d, J=8.7 Hz, 2H), 6.64 (d, J=8.7 Hz, 2H), 4.61 (d, J=2.4 Hz, 2H), 2.50 (t, J=2.4 Hz, 1H).

reactant | 4-(Prop-2-ynyloxy)nitrobenzene | 5.13 mmol, 0.910 g | C(C#C)OC1=CC=C(C=C1)[N+](=O)[O-] | C9H7NO3
reactant | NH4Cl | 12.8 mmol, 0.719 g | [NH4+].[Cl-]
solvent | EtOH water | 55 mL | CCO.O
catalyst | iron | 25.3 mmol, 1.42 g | [Fe] | Fe
product | 4-(prop-2-ynyloxy)aniline | C(C#C)OC1=CC=C(N)C=C1 | C9H9NO
